US05700839
1.1 g of N-diaminomethylene-2-ethyl-4-benzyloxy-5-methylsulfonylbenzamide (obtainable according to Ex. 6) are dissolved in 30 ml of toluene and treated at room temperature for one hour with hydrogen gas (p=1 atm) under the catalytic action of 150 mg of Pd-carbon (Pd content 1%). The reaction mixture is then filtered, and customary working up gives N-diaminomethylene-2-ethyl-4-hyrdoxy-5-methylsulfonylbenzamide.

reactant | N-diaminomethylene-2-ethyl-4-benzyloxy-5-methylsulfonylbenzamide | 1.1 g | NC(=NC(C1=C(C=C(C(=C1)S(=O)(=O)C)OCC1=CC=CC=C1)CC)=O)N | C18H21N3O4S
reactant | hydrogen | [H][H] | H2
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd carbon | 150 mg | [Pd].[C]
product | N-diaminomethylene-2-ethyl-4-hyrdoxy-5-methylsulfonylbenzamide | NC(=NC(C1=C(C=C(C(=C1)S(=O)(=O)C)O)CC)=O)N | C11H15N3O4S
